US09238656B2
Synthesis of (1S,2S,3R,4R)-3-{2-[2-Methoxy-4-(4-methyl-piperazin-1-yl)-phenyl]-3H-imidazo[4,5-b]pyridin-7-ylamino}-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound XCV)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.0 mg, 0.193 mmol) and 2-methoxy-4-(4-methyl-piperazin-1-yl)-benzaldehyde (49.7 mg, 0.212 mmol) were reacted to produce 19 mg (21%) of the title compound. mp: 185-195° C., 1H NMR (300 MHz, DMSO-d6): 11.87 (s, 1H), 8.01 (s, 1H), 7.87 (s, 1H), 7.65 (s, 1H), 7.16 (s, 1H), 6.73 (m, 1H), 6.68 (s, 1H), 6.60 (s, 1H), 6.37 (s, 1H), 6.32 (s, 2H), 3.95 (s, 4H), 2.86 (s, 1H), 2.75 (s, 1H), 2.24 (s, 4H), 1.42 (s, 1H), 1.24 (s, 1H). MS: 474 (M+H), HPLC: 1.59 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.193 mmol, 50.0 mg | NC1=NC=CC(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C13H17N5O
reactant | 2-methoxy-4-(4-methyl-piperazin-1-yl)-benzaldehyde | 0.212 mmol, 49.7 mg | COC1=C(C=O)C=CC(=C1)N1CCN(CC1)C | C13H18N2O2
product | (1S,2S,3R,4R)-3-{2-[2-Methoxy-4-(4-methyl-piperazin-1-yl)-phenyl]-3H-imidazo[4,5-b]pyridin-7-ylamino}-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 19 mg, 21% | COC1=C(C=CC(=C1)N1CCN(CC1)C)C1=NC=2C(=NC=CC2N[C@H]2[C@H]([C@@H]3C=C[C@H]2C3)C(=O)N)N1 | C26H31N7O2
